US07759373B2
To a suspension of 3-(2-aminoacetyl)pyridine dihydrochloride (5.23 g) in chloroform (50 ml) were added di-t-butyl dicarbonate (5.73 g) and triethylamine (10.5 ml), and the mixture was stirred for one hour. Water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and active charcoal was added thereto and insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by medium pressure column chromatography (solvent: chloroform:methanol=30:1→20:1), and triturated with diisopropyl ether to obtain 3-(2-t-butoxycarbonylaminoacetyl)pyridine (3.20 g).

reactant | 3-(2-aminoacetyl)pyridine dihydrochloride | 5.23 g | Cl.Cl.NCC(=O)C=1C=NC=CC1
reactant | di-t-butyl dicarbonate | 5.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10.5 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-t-butoxycarbonylaminoacetyl)pyridine | 3.20 g | C(C)(C)(C)OC(=O)NCC(=O)C=1C=NC=CC1 | C12H16N2O3
